US04634704
A mixture of 12.5 parts of N-(2,2-dimethoxyethyl)-N'-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]guanidine monohydroiodide and 100 parts of a hydrochloric acid solution 10% was stirred and refluxed for 1 hour. The reaction mixture was poured onto crushed ice. The whole was treated with a sodium hydroxide solution. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The solid residue was crystallized from 4-methyl-2-pentanone. The product was filtered off and dried, yielding 2.3 parts (26%) of 1-[(4-fluorophenyl)methyl]-N-[1-[2-(1H-imidazol-2-ylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 226.5° C. (compound 79).

reactant | N-(2,2-dimethoxyethyl)-N'-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]guanidine monohydroiodide | I.COC(CNC(=N)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)OC
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-(1H-imidazol-2-ylamino)ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | 26% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2NC=CN2 | C24H28FN7
